US07723378B2
A solution of 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propan-1-one (200 mg, 0.561 mmol) in isopropanol (5 mL) and 3 N aq. NaOH (2 mL) is treated with epichlorohydrine (210 mg, 1.68 mmol) and the mixture is stirred at rt for 6 h before it is diluted with diethyl ether, washed with sat. aq. NaHCO3 solution followed by water, dried over MgSO4 and evaporated. The crude product is purified on prep. TLC plates with heptane:EA 1:1 to give 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propan-1-one (135 mg) as a yellow oil; LC-MS: tR=1.19 min, [M+1]=413.26.

reactant | 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propan-1-one | 0.561 mmol, 200 mg | OC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C2C1CCC(C2)(C)C)C)C | C22H28O2S
reactant | epichlorohydrine | 1.68 mmol, 210 mg | C(Cl)C1CO1 | C3H5ClO
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | NaOH | 3 N, 2 mL | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propan-1-one | 135 mg | CC=1C=C(C=C(C1OCC1OC1)C)CCC(=O)C=1SC(=C2C1CCC(C2)(C)C)C | C25H32O3S
